US07758972B2
First, 25.2 g (101 mmol) of 4-bromobenzyl bromide and 100 mL of acetone were put into a 200 mL conical flask, and 29.1 g (111 mmol) of triphenylphosphine was added thereto. The mixture was stirred for 23 hours at room temperature. After the reaction, a precipitate in the reaction mixture was collected by suction filtration to give 50.5 g of a white powdered solid of (4-bromobenzyl)triphenylphosphoniumbromide (yield: 97.6%). A synthesis scheme (f-1) of (4-bromobenzyl)triphenylphosphoniumbromide is shown below.

reactant | 4-bromobenzyl bromide | 101 mmol, 25.2 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | triphenylphosphine | 111 mmol, 29.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | (4-bromobenzyl)triphenylphosphoniumbromide | yield: 97.6% | [Br-].BrC1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C25H21BrP.BrH/c26-22-18-16-21(17-19-22)20-27(23-10-4-1-5-11-23,24-12-6-2-7-13-24)25-14-8-3-9-15-25;/h1-19H,20H2;1H/q+1;/p-1
